US07199133B2
137 mg (0.295 mmol) of 2-(3-aminomethylphenylamino)-N-[4-(1,1-dioxoisothiazolidin-2-yl)-3-methylphenyl]-2-phenylacetamide are dissolved in 2.95 ml (0.295 mmol) of 0.1 N HCl in 2-propanol, and the mixture is left to stand at room temperature for 2 hours. The reaction mixture is evaporated and subsequently lyophilised, giving 2-(3-aminomethylphenylamino)-N-[4-(1,1-dioxoisothiazolidin-2-yl)-3-methylphenyl]-2-phenylacetamide, hydrochloride (“BB”) as a colourless solid; ESI 465.

reactant | 2-(3-aminomethylphenylamino)-N-[4-(1,1-dioxoisothiazolidin-2-yl)-3-methylphenyl]-2-phenylacetamide | 0.295 mmol, 137 mg | NCC=1C=C(C=CC1)NC(C(=O)NC1=CC(=C(C=C1)N1S(CCC1)(=O)=O)C)C1=CC=CC=C1 | C25H28N4O3S
reactant | HCl | 0.295 mmol, 0.1 N, 2.95 ml | Cl | ClH
solvent | 2-propanol | CC(C)O | C3H8O
product | 2-(3-aminomethylphenylamino)-N-[4-(1,1-dioxoisothiazolidin-2-yl)-3-methylphenyl]-2-phenylacetamide, hydrochloride | Cl.NCC=1C=C(C=CC1)NC(C(=O)NC1=CC(=C(C=C1)N1S(CCC1)(=O)=O)C)C1=CC=CC=C1 | InChI=1S/C25H28N4O3S.ClH/c1-18-15-22(11-12-23(18)29-13-6-14-33(29,31)32)28-25(30)24(20-8-3-2-4-9-20)27-21-10-5-7-19(16-21)17-26;/h2-5,7-12,15-16,24,27H,6,13-14,17,26H2,1H3,(H,28,30);1H
